US08912186B2
To a solution of 5-chloro-2-hydroxybenzaldehyde (2 g) and phenacyl bromide (1.85 g) in ethanol (10 ml) potassium carbonate (3.53 g) was added. The mixture was stirred at 80° C. for 1 h. Then the reaction mixture was poured into water (50 ml) and extracted with dichloromethane (3×20 ml). The combined organic layers were washed with brine (20 ml), dried (MgSO4), and concentrated under reduced pressure. The crude was purified by flash chromatography on silica gel (hexane/ethyl acetate 12:1) to give 2-benzoyl-5-chlorobenzofuran (1.85 g) as colourless solid.

reactant | 5-chloro-2-hydroxybenzaldehyde | 2 g | ClC=1C=CC(=C(C=O)C1)O | C7H5ClO2
reactant | phenacyl bromide | 1.85 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | water | 50 ml | O | H2O
solvent | ethanol | 10 ml, 3.53 g | C(C)O | C2H6O
product | 2-benzoyl-5-chlorobenzofuran | 1.85 g | C(C1=CC=CC=C1)(=O)C=1OC2=C(C1)C=C(C=C2)Cl | C15H9ClO2
